US09127024B2
N′-(tert-butyl)-4-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborole-5-carbohydrazide
Following the general procedure, mixed together 4-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborole-5-carboxylic acid (0.500 g, 2.55 mmol), PyBOP (1.34 g, 2.55 mmol), DIEA (0.89 mL, 5.10 mmol) in DMF (6 mL) followed by the addition of tert-butyl hydrazine hydrochloride (0.318 g, 2.55 mmol) and stirred the mixture at 40° C. for 1 h. LCMS showed a main peak at 2.43 with the expected product mass of 267.01 (M+1). After the general work up procedure, the crude dry sample (SKC-07-069, 0.800 g, contains some DMF) was used for the next step without further purification.

reactant | 4-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborole-5-carboxylic acid | 2.55 mmol, 0.500 g | FC1=C(C=CC=2B(OCC21)O)C(=O)O | C8H6BFO4
reactant | PyBOP | 2.55 mmol, 1.34 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIEA | 5.10 mmol, 0.89 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl hydrazine hydrochloride | 2.55 mmol, 0.318 g | Cl.C(C)(C)(C)NN
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | N′-(tert-butyl)-4-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborole-5-carbohydrazide | C(C)(C)(C)NNC(=O)C1=C(C2=C(B(OC2)O)C=C1)F | C12H16BFN2O3
